US07947712B2
To the suspension of N-[(3-aminophenyl)(5-chloro-8-hydroxyquinolin-7-yl)methyl]-2-phenoxyacetamide (150 mg, 0.35 mmol) in methylenechloride (4 ml) cooled to 0 C was added DIEA (50 mg, 0.38 mmol) followed by acetylchloride (32.4 mg, 0.42 mmol). Purification by flush chromatography (eluent 30% acetone/DCM) afforded 96 mg (57%) of N-[[3-(acetylamino)phenyl](5-chloro-8-hydroxyquinolin-7-yl)methyl]-2-phenoxyacetamide as a white solid.

reactant | N-[(3-aminophenyl)(5-chloro-8-hydroxyquinolin-7-yl)methyl]-2-phenoxyacetamide | 0.35 mmol, 150 mg | NC=1C=C(C=CC1)C(NC(COC1=CC=CC=C1)=O)C1=CC(=C2C=CC=NC2=C1O)Cl | C24H20ClN3O3
reactant | DIEA | 0.38 mmol, 50 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | acetylchloride | 0.42 mmol, 32.4 mg | C(C)(=O)Cl | C2H3ClO
solvent | methylenechloride | 4 ml | C(Cl)Cl | CH2Cl2
product | N-[[3-(acetylamino)phenyl](5-chloro-8-hydroxyquinolin-7-yl)methyl]-2-phenoxyacetamide | 96 mg, 57% | C(C)(=O)NC=1C=C(C=CC1)C(NC(COC1=CC=CC=C1)=O)C1=CC(=C2C=CC=NC2=C1O)Cl | C26H22ClN3O4
